US07893056B2
To a solution of racemic tris(1,1-dimethylethyl)2-{2-chloro-6-[1-(dimethylamino)-3-azabicyclo[3.1.0]hex-3-yl]-5-fluoro-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate (1.3231 g, 2.254 mmol) in MeOH (13 mL) was added 4 N HCl in dioxane (13 mL). The solution was stirred for 3 days, and was then concentrated in vacuo. The residue was partitioned between 10% aq. K2CO3 and DCM, and the aqueous phase was extracted with a fresh portion of DCM. The combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to give racemic 3-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N-dimethyl-3-azabicyclo[3.1.0]hexan-1-amine (0.3415 g, 53%) as a brown solid. LCMS: (M+H)+: 287.1.

reactant | racemic tris(1,1-dimethylethyl)2-{2-chloro-6-[1-(dimethylamino)-3-azabicyclo[3.1.0]hex-3-yl]-5-fluoro-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 2.254 mmol, 1.3231 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)N1CC2(CC2C1)N(C)C)Cl)C(=O)OC(C)(C)C | C26H40ClFN6O6
reactant | HCl | 4 N | Cl | ClH
solvent | MeOH | 13 mL | CO | CH4O
solvent | dioxane | 13 mL | O1CCOCC1 | C4H8O2
product | racemic 3-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N-dimethyl-3-azabicyclo[3.1.0]hexan-1-amine | 0.3415 g, 53% | ClC1=NC(=C(C(=N1)N1CC2(CC2C1)N(C)C)F)NN | C11H16ClFN6
